US07893352B2
2-t-butyl-4,7-diphenyl-1,10-phenanthroline (mono-t-BBP)
This yellow compound was prepared in a process analogous to the synthesis of PBP in which 2 equivalents of t-butyllithium were used for each equivalent of bathophenanthroline. The clean product was obtained after running chromatography in a silica/mixture of methanol/CH2Cl2 (1:1) column with a yield of 70 percent. 1H NMR (500 MHz, CDCl3) ppm: 9.28 (m, 1H), 7.81-7.74 (m, 2H), 7.68 (s, 1H), 7.57-7.35 (m, 11H), 1.62 (s, 9H). Analysis for mono-t-BBP. Found: C, 86.19, H, 6.18, N, 7.19. Calculated: C, 86.56, H, 6.25, N, 7.21.

reactant | t-butyllithium | 2 equivalents | C(C)(C)(C)[Li]
reactant | bathophenanthroline | C1=CC=C(C=C1)C2=C3C=CC4=C(C=CN=C4C3=NC=C2)C5=CC=CC=C5 | C24H16N2
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
product | 2-t-butyl-4,7-diphenyl-1,10-phenanthroline | yield of 70 percent | C(C)(C)(C)C1=NC2=C3N=CC=C(C3=CC=C2C(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2
